US08357717B2
Stage (iii): 2-(1-(4-Methoxy-2,6-dimethylphenylsulfonyl)-1,2,3,4-tetrahydroquinolin-7-yl)-1-(2-(pyridin-4-yl)-2,8-diazaspiro[4.5]decan-8-yl)ethanone (G-09)
A mixture of 2-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)-1,2,3,4-tetrahydroquinolin-7-yl)-1-(2,8-diazaspiro[4.5]decan-8-yl)ethanone hydrochloride (0.15 g, 0.274 mmol), 4-chloropyridinium chloride (0.12 g, 0.821 mmol) and triethylamine (0.15 ml, 1.09 mmol) was refluxed for 15 h in 1-butanol (7 ml). Saturated sodium hydrogen carbonate solution (20 ml) and ethyl acetate (50 ml) were then added, the phases were separated and the aqueous phase was extracted with ethyl acetate (2×50 ml). The combined organic phases were washed with saturated sodium chloride solution (20 ml), dried over magnesium sulfate and concentrated in vacuo. The crude product was purified by column chromatography (silica gel, ethyl acetate/dichloromethane/-methanol/ammonia (25% aq.), 300:100:50:1) and the desired exemplary compound G-09 was obtained. Yield: 0.1 g (62%). MS, Rt=3.3 min; m/z=589.1 [MH]+

reactant | 2-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)-1,2,3,4-tetrahydroquinolin-7-yl)-1-(2,8-diazaspiro[4.5]decan-8-yl)ethanone hydrochloride | 0.274 mmol, 0.15 g | Cl.COC1=CC(=C(C(=C1)C)S(=O)(=O)N1CCCC2=CC=C(C=C12)CC(=O)N1CCC2(CCNC2)CC1)C
reactant | 4-chloropyridinium chloride | 0.821 mmol, 0.12 g | [Cl-].ClC1=CC=[NH+]C=C1
reactant | triethylamine | 1.09 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | 1-butanol | 7 ml | C(CCC)O | C4H10O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-(1-(4-Methoxy-2,6-dimethylphenylsulfonyl)-1,2,3,4-tetrahydroquinolin-7-yl)-1-(2-(pyridin-4-yl)-2,8-diazaspiro[4.5]decan-8-yl)ethanone | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1CCCC2=CC=C(C=C12)CC(=O)N1CCC2(CCN(C2)C2=CC=NC=C2)CC1)C | C33H40N4O4S
